.SUBCKT gf180mcu_fd_sc_mcu9t5v0__oai21_1 A1 A2 B ZN VDD VDD VSS VSS
*.PININFO A1:I A2:I B:I ZN:O VDD:P VDD:P VSS:P VSS:G
*.EQN ZN=!((A1 + A2) * B)
M_i_1 ZN A2 net_0 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_0 net_0 A1 ZN VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_2 VSS B net_0 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_4 net_1 A2 VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_3 ZN A1 net_1 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_5 VDD B ZN VDD pmos_6p0 W=1.645000U L=0.500000U
.ENDS
